US07241791B2
7-chloro-3-(4-methoxyphenyl)-1-thien-3-yl-1H-indazole
A mixture of -chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole (1.0 g, 3.93 mmol), 3-thienylboronic acid (1.0 g, 7.8 mmol), anhydrous copper(II)acetate (0.71 g, 3.9 mmol) and diisopropylethylamine (1.36 mL, 7.8 mmol) in 50 mL CH2Cl2 was stirred at ambient temperature overnight. The reaction mixture was preabsorbed on silica gel and the absorbed solid purified by flash chromatography (hexane, EtOAc: 3:1) to give the product (0.15 g) as a white solid,

reactant | chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole | 3.93 mmol, 1.0 g | ClC1=C2C(=NN(C2=CC=C1)CCC)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | 3-thienylboronic acid | 7.8 mmol, 1.0 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | diisopropylethylamine | 7.8 mmol, 1.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II)acetate | 3.9 mmol, 0.71 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 7-chloro-3-(4-methoxyphenyl)-1-thien-3-yl-1H-indazole | 0.15 g | ClC=1C=CC=C2C(=NN(C12)C1=CSC=C1)C1=CC=C(C=C1)OC | C18H13ClN2OS
